US09283229B2
Step 1: Synthesis of isoquinoline-6-carbonitrile
Under N2, a mixture of 6-bromoisoquinoline (400 mg, 1.9 mmol), Zn(CN)2 (446 mg, 3.8 mmol) and Pd(PPh3)4 (40 mg) in DMF (20 mL) was stirred at 100° C. for 1 hour. Cooled the mixture to room temperature and dissolved in water. Followed standard aqueous/EtOAc workup and purified by column chromatography (PE:EtOAc=10:1).

reactant | 6-bromoisoquinoline | 1.9 mmol, 400 mg | BrC=1C=C2C=CN=CC2=CC1 | C9H6BrN
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | Zn(CN)2 | 3.8 mmol, 446 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | isoquinoline-6-carbonitrile | C1=NC=CC2=CC(=CC=C12)C#N | C10H6N2
